US05312815
A mixture consisting of 3.0 g (7.3 mmol) of (+)-3-(6-chloropyridazin-3-ylthio)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol 2.0 g(29 mmol) of 1,2,4-triazole, and 1.5 ml of acetonitrile was heated at reflux for 19 hours. After allowing the mixture to cool, the solvent was removed by distillation under reduced pressure, and the residue was neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with chloroform. The organic layer was washed successively with water and a saturated sodium chloride aqueous solution and dried. The solvent was distilled off under reduced pressure, and the residue was subjected to column chromatography using a mixed solvent of chloroform and methanol (100:1). The solvent was removed from the effluent by distillation under reduced pressure, and the residue was recrystallized from a mixed solvent of chloroform and diethyl ether to obtain 3.0 g (93%) of (+)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-3-(6-(1H- 1,2,4-triazol-1-yl)pyridazin-3-ylthio)butan-2-ol as a colorless crystal.

reactant | (+)-3-(6-chloropyridazin-3-ylthio)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 7.3 mmol, 3.0 g | ClC1=CC=C(N=N1)SC(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(C)C | C17H16ClF2N5OS
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | (+)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-3-(6-(1H- 1,2,4-triazol-1-yl)pyridazin-3-ylthio)butan-2-ol | 3.0 g, 93% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C)(SC=1N=NC(=CC1)N1N=CN=C1)C)O | C19H18F2N8OS
